US05504236
Preparation of 2,4,6-trimethylbenzoyl phenylethoxyphosphine oxide
To 26.5 g (0.08 mol) of α-hydroxy-(2,4,6-trimethylbenzyl)-phenylethoxy phosphine oxide and 1 g (38 mmol) of vanadyl(IV) bis-acetylacetonate in 110 g of chlorobenzene there were added 28 g (0.22 mol) of 70 wt % strength aqueous tert-butylhydroperoxide and the mixture was stirred for a period of 20 h. The product was isolated by distillation. Yield: 55%, bp 180° C. (0.1 mbar).

reactant | α-hydroxy-(2,4,6-trimethylbenzyl)-phenylethoxy phosphine oxide | 0.08 mol, 26.5 g | OC(CC1=CC=CC=C1)OP(CC1=C(C=C(C=C1C)C)C)=O | C18H23O3P
reactant | acetylacetonate | C/C(=C/C(=O)C)/[O-]
reactant | tert-butylhydroperoxide | C(C)(C)(C)OO | C4H10O2
solvent | chlorobenzene | 110 g | ClC1=CC=CC=C1 | C6H5Cl
product | 2,4,6-trimethylbenzoyl phenylethoxyphosphine oxide | Yield: 55% | CC1=C(C(=O)P(OCCC2=CC=CC=C2)=O)C(=CC(=C1)C)C | C18H21O3P
